* source BBCIRCUIT_SIMULATION
R_R1         N00240 N00244  0.01 TC=0,0 
Q_Q1         N00219 N00334 N00244 Q2SA1213/ZTX 
Q_Q3         N00231 N09140 N00334 Q2SA1213/ZTX 
Q_Q4         N00219 N00523 N00397 Q2N1893
Q_Q5         N09140 N00231 N00393 Q2N1893
Q_Q6         N00231 N00231 N00389 Q2N1893
Q_Q8         N00523 N00513 0 Q2N1893
R_R2         N00523 N00240  100k TC=0,0 
R_R4         0 N00389  20k TC=0,0 
R_R5         0 N00393  18k TC=0,0 
R_R6         0 N00397  4.7k TC=0,0 
R_R7         0 N00513  4.7k TC=0,0 
R_load         0 N00244  {LOAD} TC=0,0 
R_R8         0 N00389  1900k TC=0,0 
Q_Q7         N00284 N00523 N00513 Q2N1893
Q_Q2         N00284 N00318 N00240 Q2SA1213/ZTX 
R_R9         N00334 N00318  2k TC=0,0 
V_V4         N09140 N00219 0Vdc
V_V7         N00240 0 {BAT}
R_R10         N11648 N11674  0.01 TC=0,0 
R_load1         0 N11674  {LOAD} TC=0,0 
V_V9         N00284 N00318 0Vdc
R_R13         N15592 N11648  100k TC=0,0 
R_R14         N15615 N11648  100k TC=0,0 
R_R19         0 N15673  470 TC=0,0 
R_R20         0 N15892  470 TC=0,0 
Q_Q14         N16810 N16810 N16698 Q2SA1213/ZTX 
R_R23         VEE_AMP N16806  470k TC=0,0 
R_R24         VEE_AMP N16810  470k TC=0,0 
Q_Q13         N16806 N16806 N16698 Q2SA1213/ZTX 
R_R25         0 N16810  1000k TC=0,0 
Q_Q15         N31628 N15592 N15673 Q2N1893
Q_Q16         N31643 N15615 N15673 Q2N1893
Q_Q17         N15615 N31643 N15892 Q2N1893
Q_Q18         N15592 N31628 N15673 Q2N1893
V_V10         VCC_AMP 0 5Vdc
V_V11         0 VEE_AMP 0Vdc
R_R29         VCC_AMP N16698  47k TC=0,0 
R_R33         N15673 0  25k TC=0,0 
I_I1         0 N11648 DC 0Adc AC 0Aac
+SIN 0 0 50 0 0 0
Q_Q21         N31643 N33651 N36381 Q2SA1213/ZTX 
Q_Q22         N31628 N33651 N36457 Q2SA1213/ZTX 
Q_Q23         N33651 N33651 VCC_AMP Q2SA1213/ZTX 
R_R35         N33651 0  19k TC=0,0 
R_R37         VCC_AMP N36381  4.7k TC=0,0 
R_R40         VCC_AMP N36457  4.7k TC=0,0 
X_U1A         N39284 N39254 VCC_AMP VEE_AMP N39551 LM358
R_R41         N39284 N15673  470 TC=0,0 
R_R42         N39254 N15892  470 TC=0,0 
R_R43         N39551 N39254  47000 TC=0,0 
R_R44         0 N39284  47000 TC=0,0 
R_R45         N00240 N00244  0.01 TC=0,0 
.PARAM  load=2 bat=24
